US07041690B2
According to literature reference (Huang, Y.; Luedtke, R. R.; Freeman, R. A.; Wu, L.; Mach, R. H. Bioorg. Med. Chem. 2001, 9, 3113–3122), to a mixture of 2-chlorobenzenecarboximidamide (5.4 g, 34.8 mmol), 1,3-dihydroxyacetone dimmer (6.2 g, 34.8 mmol) and ammonium chloride (7.5 g, 139 mmol) is added concentrated ammonium hydroxide (40 mL). The reaction mixture is then heated to reflux for 30 minutes after which time it is cooled to room temperature and poured into a ice/water mixture. This aqueous suspension is extracted with CH2Cl2 and the combined organic extracts are dried over sodium sulfate and concentrated to provide a crude solid. The crude product is recrystallized from ethyl acetate to afford 3.9 g of [2-(2-chlorophenyl)-1H-imidazol-4-yl]methanol.

reactant | 2-chlorobenzenecarboximidamide | 34.8 mmol, 5.4 g | ClC1=C(C=CC=C1)C(N)=N | C7H7ClN2
reactant | 1,3-dihydroxyacetone | OCC(=O)CO | C3H6O3
reactant | ammonium chloride | 139 mmol, 7.5 g | [Cl-].[NH4+]
solvent | ammonium hydroxide | 40 mL | [OH-].[NH4+]
product | [2-(2-chlorophenyl)-1H-imidazol-4-yl]methanol | 3.9 g | ClC1=C(C=CC=C1)C=1NC=C(N1)CO | C10H9ClN2O
